US07692005B2
3-{4-[(6-{3-[(3-Methyl-isoxazole-4-carbonyl)-amino]-benzoyl}-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-amino]-phenyl}-propionic acid
A small screw cap test tube was charged with 3-Methyl-isoxazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 100 mg, 0.257 mmol) and THF (2.5 mL). To the resulting solution was added 3-(4-Amino-phenyl)-propionic acid (42.4 mg, 0.257 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and a yellow precipitate formed. The precipitate was filtered then washed with 0° C. iPrOH (˜5 mL) to afford the title compound in 25% yield (0.034 g, 0.0634 mmol).

reactant | 3-Methyl-isoxazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.257 mmol, 100 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C(=NOC1)C)=O | C21H15N3O5
reactant | 3-(4-Amino-phenyl)-propionic acid | 0.257 mmol, 42.4 mg | NC1=CC=C(C=C1)CCC(=O)O | C9H11NO2
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 3-{4-[(6-{3-[(3-Methyl-isoxazole-4-carbonyl)-amino]-benzoyl}-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-amino]-phenyl}-propionic acid | 25% yield | CC1=NOC=C1C(=O)NC=1C=C(C(=O)C2=CC=C3C(C(NC3=C2)=O)=CNC2=CC=C(C=C2)CCC(=O)O)C=CC1 | C30H24N4O6
